2124-01-05 07:49:00 Physician Resident Progress Note
Chief Complaint: Hepatorenal syndrome and initiation of Hemodialysis
   24 Hour Events:
 PICC LINE - START [**2124-1-4**] 08:48 PM
 DIALYSIS CATHETER - START [**2124-1-4**] 09:10 PM
   Blood pressure dropped to 63/40 during attempts to get off fluid,
   patient was given 1,000 ml of fluid back and run even for the night and
   pressures remained low.
   Allergies:
   Lisinopril Unknown;
   Penicillins Unknown;
   Zocor (Oral) (Simvastatin) Unknown;
   Tetracycline Unknown;
   Theophylline Unknown;
   Macrolide Antibiotics Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2124-1-5**] 12:00 AM
   Aztreonam - [**2124-1-5**] 06:02 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Pain:
everywhere
   Flowsheet Data as of  [**2124-1-5**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.4
C (95.8
   Tcurrent: 35.3
C (95.5
   HR: 90 (68 - 92) bpm
   BP: 83/58(63) {63/40(46) - 88/60(67)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    266 mL
                                                                  1,447 mL
   PO:
             TF:
   IVF:
                                                                    206 mL
                                                                  1,387 mL
   Blood products:
   Total out:
                                                                    409 mL
                                                                  1,064 mL
   Urine:
                                                                     60 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: VBG: 7.32/36
   Physical Examination on bear hugger
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, tender, Bowel sounds present, Distended, large amount
   of ascites
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, date, Movement: Purposeful,
   Tone: Normal, no asterixis
   Labs / Radiology
   195 K/uL
   8.5 g/dL
   83 mg/dL
   4.3 mg/dL
   18 mEq/L
   3.3 mEq/L
   42 mg/dL
   101 mEq/L
   138 mEq/L
   26.1 %
   15.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  03:57 AM
   WBC
   15.8
   Hct
   26.1
   Plt
   195
   Cr
   4.3
   Glucose
   83
   Other labs: PT / PTT / INR:19.6/49.4/1.8, ALT / AST:[**5-10**], Alk Phos / T
   Bili:66/1.3, Albumin:3.7 g/dL, LDH:101 IU/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Imaging: ECHO EF> 65%, Mild mitral regurgitation with normal valve
   morphology. Borderline pulmonary artery systolic hypertension. Normal
   biventricular cavity sizes with preserved global and regional
   biventricular systolic function.
   [**12-31**] LIVER GALLBLADDER U/S 1. Shrunken heterogeneous liver architecture
   which makes it difficult to
   assess for focal liver lesions. An MRI could be considered for an
   additional
   assessment for liver lesions.
   2. Patent hepatic vasculature.
   3. Tiny gallbladder polyps with a small amount of debris within the
   gallbladder.
   4. Ascites.
   CXR with bilateral pleural effusions
   Microbiology: [**1-1**], and [**1-3**] peritoneal fluid with no growth or
   organisms seen on gram stain
   All blood cultures negative to date
   Assessment and Plan
   60 year-old female with a history of alcoholic cirrhosis admitted with
   hepatorenal syndrome, spontaneous bacterial peritonitis, and ileus.
   She is transferred from the floor to the MICU initiate CVVH.  She is
   undergoing liver transplant evaluation.
   # Hypotension: SBPs remain 70-80s despite fluids.  Likely due to
   splanchic vasodilation from liver failure.  No evidence of sepsis.  No
   signs or symptoms of active bleeding although hematocrit trending down
   slightly.   Need to improve pressure for perfusion and to be able to
   remove fluid necessary to complete transplant work-up. Hypotension not
   fluid responsive, will remain off albumin.
   - Start levophed, MAP >60
   - Octreotide and midodrine
   - Monitor
   # Renal failure/anion gap metabolic acidosis: Diagnosis likely
   hepatorenal syndrome type 1. Renal failure likely precipitated by large
   volume paracentesis at OSH and SBP.  Creatinine continues to rise and
   patient is anuric.  AG metabolic acidosis due to renal failure which is
   improved with bicarbonate tablets.  Dialysis catheter in place.
   - Renal following; appreciate recs
   - CVVH on pressors, goal negative 2 liters today
   - On maximum doses of octreotide 200 mg tid and midodrine 15 mg
   - Liver transplant evaluation ongoing
   # Liver disease/Alcoholic cirrhosis: MELD score 32 today.  Liver
   disease most likely secondary to alcohol but evaluating for other
   possible etiologies and pursuing transplant evaluation.  No known
   varices. Refractory ascites.  Currently not encephalopathic.  INR 2.2,
   albumin 3.5, platelets stable.  Awaiting colposcopy, PFTs and stress
   before can be listed for transplant
   - Protonix 40 mg IV
   - Checking [**Doctor First Name **], [**Last Name (un) 4195**], AMA, hepatitis serologies, ceruloplasmin, IgG,
   toxo, CMV, HSV
   - Continue pretransplant evaluation - will confirm pending tests with
   Liver/Transplant services
   - Received vitamin K 10 mg PO x 2 days without improvement in INR; will
   repeat tomorrow
   # Ileus: Ileus most likely secondary to infection/SBP.  No history of
   prior abdominal surgeries per patient.  Patient with stool output
   within 24 hours.
   - NG tube to low intermittent wall suction
   - Continue NPO for now
   - Continue levofloxacin, flagyl, aztreonam
   - Zofran PRN
   # Leukocytosis: White count remains elevated but trending down.
   Patient has been afebrile. PMN < 250 on paracentesis [**1-3**].  Urine
   culture growing yeast which is likely from antibiotic use.  No evidence
   of abscess, perforation or focal collection on CT.  C. difficile
   negative x 1.
   - Culture data no growth to date; monitor
   - Continue levofloxacin, flagyl, aztreonam * 14 days
   - Recheck urine culture and consider discontinuation of fluconazole
   # Spontaneous bacterial peritonitis: Patient with SBP on OSH
   paracentesis.  [**Month (only) 51**] have had microperforation on initial paracentesis
   resulting in slow resolution of infection.  PMN < 250 on paracentesis
   [**1-3**].  Currently broadly covering.
   - Continue levofloxacin, flagyl, aztreonam * 14 days
   - Received albumin days 1 and 3
   # Dyspnea: Likely secondary to restriction from large volume ascites as
   well as bilateral pleural effusions.  No consolidation on chest x-ray.
   - Initiate CVVH
   - Oxygen by nasal cannula as needed
   # Anemia: Normocytic.  Likely anemia of chronic disease and from
   chronic kidney disease.  Trending down during admission.
   - Monitor
   # Candiduria: Receiving Diflucan for planned 7-day course.
   - Recheck urine culture
   # Pain: patient with arthritis pain, not responsive to tylenol.
   Avoiding NSAIDS given renal failure.
   - Morphine 1 to 2 mg prn
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Comments: not needed
   Lines:
   PICC Line - [**2124-1-4**] 08:48 PM
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  not intubated
   Communication:  patient
   Code status: Full code
   Disposition:ICU

2124-01-05 09:38:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   HPI:
   S/P ICU stay last week for Type I hepatorenal, SBP. Now transfered back
   to ICU fromthe floor with volume overload, progressive renal failure
   and for intitiation of CVVH. Currently on Aztreonam/levo/flagyl with
   paracentesis cellcount trending down.
   24 Hour Events:
 PICC LINE - START [**2124-1-4**] 08:48 PM
 DIALYSIS CATHETER - START [**2124-1-4**] 09:10 PM
   Started CVVH but c/b low BP
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2124-1-5**] 06:02 AM
   Metronidazole - [**2124-1-5**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-5**] 08:00 AM
   Other medications:
   Changes to medical and family history: none.
   Review of systems: c/o back pain and needing frequent repositioning.
   Dyspnea. No cough. No nausea, vomiting.
   Flowsheet Data as of  [**2124-1-5**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 90 (68 - 96) bpm
   BP: 69/45(51) {63/38(45) - 88/60(67)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    266 mL
                                                                  2,260 mL
   PO:
             TF:
   IVF:
                                                                    206 mL
                                                                  2,110 mL
   Blood products:
   Total out:
                                                                    409 mL
                                                                  1,373 mL
   Urine:
                                                                     60 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    887 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Awake, alert, responds to questions. Oriented. Dyspneic and cannot
   tolerate supine position.
   Poor chest excursion with respirations. Crackles
 up. Abdomen soft,
   large ascites. + tenderness, diffuse- unchanged according to residents.
   Trace edema bilaterally.
   Labs / Radiology
   8.5 g/dL
   195 K/uL
   83 mg/dL
   4.3 mg/dL
   18 mEq/L
   3.3 mEq/L
   42 mg/dL
   101 mEq/L
   138 mEq/L
   26.1 %
   15.8 K/uL
        [image002.jpg]
                            [**2124-1-5**]  03:57 AM
   WBC
   15.8
   Hct
   26.1
   Plt
   195
   Cr
   4.3
   Glucose
   83
   Other labs: PT / PTT / INR:19.6/49.4/1.8, ALT / AST:[**5-10**], Alk Phos / T
   Bili:66/1.3, Albumin:3.7 g/dL, LDH:101 IU/L, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
   Likely type I. Initiating CVVH with plan for aggressive volume removal.
   Continue midorine and octreotide.
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
   On levo/aztreonam/flagyl will complete 14 day course.
 Hypotension
   Low SVR [**2-27**] liver disease +/- infection. Will add levophed for a MAP of
   60 and to enable CVVH.
 Liver Failure
   MELD 32 on arrival. Transplant eval in progress. Has mentioned to Dr
   [**Last Name (STitle) 4104**] that she may not want to pursue transplant. Will need psych
   to evaluate with transplant workup.
 Access
   Will need CVC if we cannot place peripheral IV.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Currently NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-1-4**] 08:48 PM
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2124-01-06 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Renal failure
   24 Hour Events:
   - Arterial line placed
   - Changed levophed to neosynephrine for tachyarrthymia
   - Titrated up neosynephrine
   - CVVH continued
   - Family visited
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-5**] 11:45 AM
   Metronidazole - [**2124-1-6**] 12:00 AM
   Aztreonam - [**2124-1-6**] 04:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-5**] 08:00 AM
   Morphine Sulfate - [**2124-1-5**] 08:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-6**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.2
C (95.3
   HR: 99 (77 - 142) bpm
   BP: 92/60(75) {77/45(58) - 99/65(258)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,381 mL
                                                                  1,327 mL
   PO:
             TF:
   IVF:
                                                                  4,051 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                  3,872 mL
                                                                  1,242 mL
   Urine:
                                                                    118 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    509 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.34/33/102/17/-6
   Physical Examination
   General: Ill-appearing
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, tender, Bowel sounds present, Distended, large amount
   of ascites
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, date, Movement: Purposeful,
   Tone: Normal, no asterixis
   Labs / Radiology
   226 K/uL
   8.5 g/dL
   78 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.5 mEq/L
   18 mg/dL
   101 mEq/L
   135 mEq/L
   25.8 %
   16.6 K/uL
        [image002.jpg]
                            [**2124-1-5**]  03:57 AM
                            [**2124-1-5**]  10:11 AM
                            [**2124-1-5**]  03:47 PM
                            [**2124-1-5**]  03:59 PM
                            [**2124-1-5**]  10:34 PM
                            [**2124-1-5**]  10:53 PM
                            [**2124-1-6**]  04:16 AM
                            [**2124-1-6**]  04:43 AM
   WBC
   15.8
   16.6
   Hct
   26.1
   25.8
   Plt
   195
   226
   Cr
   4.3
   3.0
   2.0
   TCO2
   17
   19
   19
   Glucose
   83
   67
   67
   78
   78
   Other labs: PT / PTT / INR:19.5/52.0/1.8, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 year-old female with a history of alcoholic cirrhosis admitted with
   hepatorenal syndrome, spontaneous bacterial peritonitis, and ileus ->
   transferred from the floor to the MICU initiate CVVH.  She is
   undergoing liver transplant evaluation.
   # Hypotension: Patient has splanchic vasodilation from liver failure
   and is on pressors in order to perform CVVH.  The need for rapid
   uptitration of her pressors is concerning for another etiology of
   hypotension such as new infection.  No signs or symptoms of active
   bleeding although hematocrit trending down slightly.
   - Continue neosynephrine for goal MAP > 55
   - Albumin 100 gm IV today
   - Goal even on CVVH for today
   - Repeat blood cultures
   - CT torso in the afternoon to evaluate for source of infection
   - Start vancomycin in addition to aztreonam/levofloxacin/flagyl for
   potential gram positive infection
   - Continue octreotide and midodrine
   - Monitor
   # Renal failure/anion gap metabolic acidosis: Diagnosis likely
   hepatorenal syndrome type 1. Renal failure likely precipitated by large
   volume paracentesis at OSH and SBP.  Creatinine continues to rise and
   patient is anuric.  AG metabolic acidosis due to renal failure which is
   improved with bicarbonate tablets.  Dialysis catheter in place.
   - Renal following; appreciate recommendations
   - CVVH -> goal even today given hypotension as above
   - On maximum doses of octreotide 200 mg tid and midodrine 15 mg
   - Liver transplant evaluation ongoing
   # Liver disease/Alcoholic cirrhosis: MELD score 32 on admission to
   MICU.  Liver disease most likely secondary to alcohol but evaluating
   for other possible etiologies and pursuing transplant evaluation.  No
   known varices. Refractory ascites.  Currently not encephalopathic.  INR
   2.2, albumin 3.5, platelets stable.  Awaiting colposcopy, PFTs and
   stress before can be listed for transplant
   - Protonix 40 mg IV
   - Continue pretransplant evaluation - will confirm pending tests with
   Liver/Transplant services
   - Blood for HLA typing walked down to laboratory
   # Leukocytosis: White count remains elevated and is now trending up.
   Patient has been afebrile, although not reliable in setting of CVVH.
   PMN < 250 on paracentesis [**1-3**].  Urine culture growing yeast which is
   likely from antibiotic use.  No evidence of abscess, perforation or
   focal collection on CT.  C. difficile negative x 1.
   - Culture data no growth to date; monitor
   - Start vancomycin now
   - Continue levofloxacin, flagyl, aztreonam x 14 days
   - Continue fluconazole x 7 days
   # Ileus: Patient passing gas and stooling.  Ileus most likely secondary
   to infection/SBP.  No history of prior abdominal surgeries per
   patient.
   - NG tube in place
   - Attempt tube feeds
   - Zofran PRN
   # Spontaneous bacterial peritonitis: Patient with SBP on OSH
   paracentesis.  [**Month (only) 51**] have had microperforation on initial paracentesis
   resulting in slow resolution of infection.  PMN < 250 on paracentesis
   [**1-3**].  Currently broadly covering.
   - Continue levofloxacin, flagyl, aztreonam x 14 days
   - Received albumin days 1 and 3
   # Dyspnea: Likely secondary to restriction from large volume ascites as
   well as bilateral pleural effusions.  Question consolidation on chest
   x-ray.
   - Antibiotics as above
   - CVVH to remove fluid when stable
   - Oxygen by nasal cannula as needed
   # Anemia: Normocytic.  Likely anemia of chronic disease and from
   chronic kidney disease.  Trending down during admission.
   - Monitor
   # Candiduria: Receiving Diflucan for planned 7-day course.
   # Pain: patient with arthritis pain, not responsive to tylenol.
   Avoiding NSAIDS given renal failure.
   - Morphine 1 to 2 mg prn
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-1-4**] 08:48 PM
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-01-06 11:45:00 Physician Attending Progress Note
Chief Complaint: Anasarca
   HPI: Please see previous notes for details. Briefly 60 y/o woman with
   PMH of  etoh chirossis, now off etoh, presented from OSH with SBP and
   Type I HRS. Now undergoing liver transplant eval and transferred to the
   MICU for anuric renal failure and initiation of CVVH.
   24 Hour Events:
 ARTERIAL LINE - START [**2124-1-5**] 12:15 PM, CVVH started. 500c
   positive for 24hrs. Now 400cc/neg since MN.
   Levophed started o/n to facilitate fluid removal, but still not
   tolerating
   Levophed changed to neo this am [**2-27**] tachyarrythmia
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-5**] 11:45 AM
   Aztreonam - [**2124-1-6**] 04:00 AM
   Metronidazole - [**2124-1-6**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2124-1-5**] 08:52 PM
   Pantoprazole (Protonix) - [**2124-1-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-6**] 08:00 AM
   Other medications:
   Changes to medical and family history: no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: no changes
   Flowsheet Data as of  [**2124-1-6**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 95 (77 - 142) bpm
   BP: 77/47(60) {65/43(53) - 148/137(259)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,383 mL
                                                                  2,037 mL
   PO:
             TF:
   IVF:
                                                                  4,053 mL
                                                                  1,857 mL
   Blood products:
   Total out:
                                                                  3,872 mL
                                                                  2,385 mL
   Urine:
                                                                    118 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    511 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/35/95.[**Numeric Identifier 143**]/17/-5
   Physical Examination
   Alert, but appears fatigued
   Some accessory muscle use, crackles on exam
   RRR no m/r/g
   Abdomen tense, distended.
   Extremities warm
   Labs / Radiology
   8.5 g/dL
   226 K/uL
   78 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.5 mEq/L
   18 mg/dL
   101 mEq/L
   135 mEq/L
   25.8 %
   16.6 K/uL
        [image002.jpg]
                            [**2124-1-5**]  03:57 AM
                            [**2124-1-5**]  10:11 AM
                            [**2124-1-5**]  03:47 PM
                            [**2124-1-5**]  03:59 PM
                            [**2124-1-5**]  10:34 PM
                            [**2124-1-5**]  10:53 PM
                            [**2124-1-6**]  04:16 AM
                            [**2124-1-6**]  04:43 AM
                            [**2124-1-6**]  10:31 AM
   WBC
   15.8
   16.6
   Hct
   26.1
   25.8
   Plt
   195
   226
   Cr
   4.3
   3.0
   2.0
   TCO2
   17
   19
   19
   20
   Glucose
   83
   67
   67
   78
   78
   Other labs: PT / PTT / INR:19.5/52.0/1.8, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 year old with PMH of alcoholic chirrosis, Type I  HRS, SBP now sig.
   new hypotension despite min. fluid removal.
   1) Hypotension - Rapidly escalating pressors this morning. Currently
   close to 200 mcg/min of neo in the setting of only 400ccs off in last
   12 hours. Add vancomycin. titrating pressors for MAP goal of 55.
   Regimen now vanc/levo/aztreonam/flagyl
   Bolus with albumin now and will run CVVH even unitl certain that she
   does not have an additional process driving down her SVR. Suspect she
   is newly infected.
   2) Renal Failure - Need to get volume off, but holding in setting of
   apparent new hypotension.
   3) respiratory status
 difficult situation. Inability to tolerate
   fluid removal yet increasing work of breathing. Will attempt
   paracentesis to decrease respiratory system compliance and
   diagnostically to look for source of infection. There is sig. chance of
   intubation in the near term.
   further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Nutrition consult for tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-1-4**] 08:48 PM
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-07 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Renal failure
   24 Hour Events:
   - Changed levophed to neosynephrine
   - Started vasopressin to keep MAP >60
   - CvO2 68%, gave 2 units pRBCs with improvement in pressor requirements
   - Added vancomycin to flagyl, astreonam, levofloxacin
   - Underwent 2.5L paracentesis this morning
   - Given albumin 100 gm x 1
   - Sent blood cultures, stool for C. difficile
   - Sent HLA typing
   - Double lumen PICC placed that is in brachiocephalic and being used as
   a midline due to position
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-6**] 12:30 PM
   Vancomycin - [**2124-1-6**] 11:00 PM
   Metronidazole - [**2124-1-7**] 12:00 AM
   Aztreonam - [**2124-1-7**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 1.5 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-1-6**] 08:00 PM
   Morphine Sulfate - [**2124-1-7**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-7**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 78 (72 - 150) bpm
   BP: 77/46(60) {65/37(51) - 91/57(72)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  5,833 mL
                                                                  1,965 mL
   PO:
   TF:
   IVF:
                                                                  4,653 mL
                                                                  1,205 mL
   Blood products:
                                                                    400 mL
                                                                    700 mL
   Total out:
                                                                  5,730 mL
                                                                  1,115 mL
   Urine:
                                                                     75 mL
                                                                     15 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.33/41/86.[**Numeric Identifier 143**]/19/-4
   Physical Examination
   General: Ill-appearing
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Soft, tender, Bowel sounds present, Distended, large amount
   of ascites
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, date, Movement: Purposeful,
   Tone: Normal, no asterixis
   Labs / Radiology
   189 K/uL
   10.0 g/dL
   130 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   9 mg/dL
   97 mEq/L
   133 mEq/L
   30.6 %
   14.4 K/uL
        [image002.jpg]
                            [**2124-1-6**]  04:16 AM
                            [**2124-1-6**]  04:43 AM
                            [**2124-1-6**]  10:16 AM
                            [**2124-1-6**]  10:31 AM
                            [**2124-1-6**]  03:41 PM
                            [**2124-1-6**]  04:06 PM
                            [**2124-1-6**]  09:19 PM
                            [**2124-1-6**]  09:38 PM
                            [**2124-1-7**]  03:34 AM
                            [**2124-1-7**]  03:46 AM
   WBC
   16.6
   14.4
   Hct
   25.8
   30.6
   Plt
   226
   189
   Cr
   2.0
   1.7
   1.4
   TCO2
   19
   20
   19
   23
   23
   Glucose
   78
   77
   113
   120
   130
   Other labs: PT / PTT / INR:19.9/50.0/1.9, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Differential-Neuts:73.0 %, Band:7.0 %, Lymph:13.0 %,
   Mono:5.0 %, Eos:1.0 %, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   60 year-old female with a history of alcoholic cirrhosis admitted with
   hepatorenal syndrome, spontaneous bacterial peritonitis, and ileus ->
   transferred from the floor to the MICU initiate CVVH.  She is
   undergoing liver/kidney transplant evaluation.
   # Hypotension: Patient has splanchic vasodilation from liver failure
   and is on pressors in order to perform CVVH.  Her high pressure
   requirement is concerning for another etiology of hypotension such as
   abdominal compartment syndrome or new infection.  Pressures improved
   somewhat after paracentesis today, albumin and blood yesterday, and
   addition of vancomycin.  No signs or symptoms of active bleeding
   status post 2U pRBC to improve CvO2.
   - Continue neosynephrine and vasopressin for goal MAP > 55
   - Monitor bladder pressures
 consider paracentesis every other day
   - Repeat albumin 100 gm IV today after paracentesis
   - CVVH
 attempt to remove 50cc/hr now that blood pressures improved
   - Blood cultures
 NGTD
   - CT torso in the afternoon to evaluate for source of infection
   - Continue broad coverage with vancomycin/aztreonam/levofloxacin/flagyl
   - Continue octreotide and midodrine
   - Monitor
   # Renal failure/anion gap metabolic acidosis: Diagnosis likely
   hepatorenal syndrome type 1. Renal failure likely precipitated by large
   volume paracentesis at OSH and SBP.  Creatinine continues to rise and
   patient is anuric.  AG metabolic acidosis due to renal failure which is
   improved with bicarbonate tablets.  Dialysis catheter in place.
   - Renal following; appreciate recommendations
   - CVVH
 attempt to remove 50cc/hr now that blood pressures improved
   - On maximum doses of octreotide 200 mg tid and midodrine 15 mg
   - Liver/kidney transplant evaluation ongoing
 will obtain cardiology
   consult
   # Alcoholic cirrhosis: MELD score 32 on admission to MICU.  Liver
   disease most likely secondary to alcohol but evaluating for other
   possible etiologies and pursuing transplant evaluation.  No known
   varices.  Refractory ascites.  Currently not encephalopathic.
   Laboratories stable.  No response to vitamin K supplementation.
   - Continue protonix 40 mg IV
   - Continue pretransplant evaluation
 will obtain cardiology consult
   # Leukocytosis: White count remains elevated but is now trending down.
   Patient has been afebrile, although not reliable in setting of CVVH.
   PMN < 250 on paracentesis [**1-7**].  Urine culture growing yeast which is
   likely from antibiotic use.  No evidence of abscess, perforation or
   focal collection on CT.  C. difficile negative x 1.
   - Culture data no growth to date; monitor
   - Continue broad coverage with vancomycin/aztreonam/levofloxacin/flagyl
   - Continue fluconazole x 7 days
   # Ileus: Patient passing gas and stooling, however persistent
   residuals.  Ileus most likely secondary to infection/SBP.  No history
   of prior abdominal surgeries per patient.
   - NG tube in place
   - Attempt tube feeds when decreased residuals
   - Zofran PRN
   # Spontaneous bacterial peritonitis: Patient with SBP on OSH
   paracentesis.  [**Month (only) 51**] have had microperforation on initial paracentesis
   resulting in slow resolution of infection.  PMN < 250 on paracentesis
   [**1-7**].  Currently broadly covering.
   - Continue levofloxacin, flagyl, aztreonam x 14 days
   - Received albumin days 1 and 3
   # Dyspnea: Likely secondary to restriction from large volume ascites as
   well as bilateral pleural effusions.  Question consolidation on chest
   x-ray.
   - Antibiotics as above
   - CVVH to remove fluid when stable
   - Oxygen by nasal cannula as needed
   # Anemia: Normocytic.  Likely anemia of chronic disease and from
   chronic kidney disease.  Status post 2U pRBC to improve CvO2.
   - Monitor
   # Candiduria: Receiving Diflucan for planned 7-day course.
   # Pain: Abdominal and arthritic pain.  Avoiding NSAIDS given renal
   failure.
   - Morphine 1-2 mg PRN
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   PICC Line - [**2124-1-6**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2124-01-07 09:22:00 Physician Attending Progress Note
Chief Complaint: Edema
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   60 y/o woman with PMH of ELSD [**2-27**] etoh , transferred from OSH with SBP,
   Type I [**Hospital 4253**] transferred to the MICU with anuric reanl failure for
   initiation of CVVH.
   24 Hour Events:
   LVP this am
   Started on vasopressin
   2 units PRBC yesterday
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-6**] 12:30 PM
   Vancomycin - [**2124-1-6**] 11:00 PM
   Aztreonam - [**2124-1-7**] 04:00 AM
   Metronidazole - [**2124-1-7**] 08:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 2 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-6**] 08:00 PM
   Morphine Sulfate - [**2124-1-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-7**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 87 (72 - 150) bpm
   BP: 82/50(65) {65/37(51) - 91/57(72)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  5,833 mL
                                                                  2,245 mL
   PO:
   TF:
   IVF:
                                                                  4,653 mL
                                                                  1,485 mL
   Blood products:
                                                                    400 mL
                                                                    700 mL
   Total out:
                                                                  5,730 mL
                                                                  1,215 mL
   Urine:
                                                                     75 mL
                                                                     25 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                  1,030 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.33/41/86.[**Numeric Identifier 143**]/19/-4
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: No(t)
   Clear : , Diminished: b/l bases)
   Abdominal: Non-tender, Distended, tense
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   189 K/uL
   130 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.4 mEq/L
   9 mg/dL
   97 mEq/L
   133 mEq/L
   30.6 %
   14.4 K/uL
        [image002.jpg]
                            [**2124-1-6**]  04:16 AM
                            [**2124-1-6**]  04:43 AM
                            [**2124-1-6**]  10:16 AM
                            [**2124-1-6**]  10:31 AM
                            [**2124-1-6**]  03:41 PM
                            [**2124-1-6**]  04:06 PM
                            [**2124-1-6**]  09:19 PM
                            [**2124-1-6**]  09:38 PM
                            [**2124-1-7**]  03:34 AM
                            [**2124-1-7**]  03:46 AM
   WBC
   16.6
   14.4
   Hct
   25.8
   30.6
   Plt
   226
   189
   Cr
   2.0
   1.7
   1.4
   TCO2
   19
   20
   19
   23
   23
   Glucose
   78
   77
   113
   120
   130
   Other labs: PT / PTT / INR:19.9/50.0/1.9, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Differential-Neuts:73.0 %, Band:7.0 %, Lymph:13.0 %,
   Mono:5.0 %, Eos:1.0 %, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   Plan as per resident note. Briefly, 60 y/o woman with ESLD, now Type I
   HRS in MICU for CVVH. Hypotension seems out of proportion to fluid
   removal and in any case CVVH has been running even o/n. Ddx included
   spesis and  (less likely) abdominal compartment syndrome. S/P LVP, will
   give albumin to replace what was taken off.  Neo/vasopressin for MAP <
   55 (goal less because of likely baseline low SVR). Follow bladder
   pressure.  Abx regimen now vanc/levo/flagyl/aztreonam. Latest tap not
   c/w peritonitis. Cultures pending, chest/abdmn/pelvis CT today. Hope to
   resume fluid removal as soon as possible, but difficult  in the setting
   of high pressor requirement. Aim even today. respiratory status is
   tenuous but stable and improved post LVP.
   ICU Care
   Nutrition:
   Comments: Holding [**2-27**] large residulas
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   PICC Line - [**2124-1-6**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-01-08 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Renal failure
   24 Hour Events:
   - CVVH -> able to remove fluid with minimal increase in pressor (neo
   from 0.5 to 0.6; vasopressin)
   - CT torso showed bilateral pleural effusions/ascites/ileus, no
   abscess/fluid collection
   - Bladder pressure after paracentesis 28
   - Overnight she stated she wanted to be "left to die"; discussion ->
   continued aggressive care overnight, make comfortable with morphine,
   readdress in the morning
   - Rhythm converted to atrial fibrillation this morning
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-7**] 01:00 PM
   Vancomycin - [**2124-1-7**] 08:12 PM
   Metronidazole - [**2124-1-8**] 12:15 AM
   Aztreonam - [**2124-1-8**] 04:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-7**] 08:00 AM
   Morphine Sulfate - [**2124-1-8**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-8**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 114 (69 - 114) bpm
   BP: 90/60(71) {77/45(59) - 96/62(77)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 28 (28 - 28) mmHg
   Total In:
                                                                  5,820 mL
                                                                    573 mL
   PO:
   TF:
   IVF:
                                                                  3,920 mL
                                                                    573 mL
   Blood products:
                                                                  1,100 mL
   Total out:
                                                                  7,508 mL
                                                                    979 mL
   Urine:
                                                                    141 mL
                                                                     25 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                  2,500 mL
   Balance:
                                                                 -1,688 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/38/77/22/-2
   Physical Examination
   General: Ill-appearing
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases)
   Abdominal: Tender, Bowel sounds present, Distended, large amount of
   ascites
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, location, date, Movement: Purposeful,
   Tone: Normal, no asterixis
   Labs / Radiology
   138 K/uL
   9.0 g/dL
   117 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.1 mEq/L
   6 mg/dL
   97 mEq/L
   134 mEq/L
   26.6 %
   10.3 K/uL
        [image002.jpg]
                            [**2124-1-7**]  03:34 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-7**]  09:52 AM
                            [**2124-1-7**]  10:14 AM
                            [**2124-1-7**]  03:49 PM
                            [**2124-1-7**]  04:03 PM
                            [**2124-1-7**]  10:47 PM
                            [**2124-1-7**]  10:56 PM
                            [**2124-1-8**]  04:39 AM
                            [**2124-1-8**]  05:01 AM
   WBC
   14.4
   10.3
   Hct
   30.6
   26.6
   Plt
   189
   138
   Cr
   1.4
   1.1
   1.1
   TCO2
   23
   21
   23
   23
   23
   Glucose
   130
   129
   128
   129
   117
   Other labs: PT / PTT / INR:19.5/55.3/1.8, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Differential-Neuts:73.0 %, Band:7.0 %, Lymph:13.0 %,
   Mono:5.0 %, Eos:1.0 %, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   60 year-old female with a history of alcoholic cirrhosis admitted with
   hepatorenal syndrome, spontaneous bacterial peritonitis, and ileus ->
   transferred from the floor to the MICU initiate CVVH.  She is
   undergoing liver/kidney transplant evaluation.
   # Hypotension: Patient has splanchic vasodilation from liver failure
   and is on pressors in order to perform CVVH.  Her high pressure
   requirement is concerning for another etiology of hypotension such as
   abdominal compartment syndrome or new infection.  Pressures improved
   somewhat after paracentesis today, albumin and blood yesterday, and
   addition of vancomycin.  No signs or symptoms of active bleeding
   status post 2U pRBC to improve CvO2.
   - Continue neosynephrine and vasopressin for goal MAP > 55
   - Monitor bladder pressures
 consider paracentesis every other day
   - Repeat albumin 100 gm IV today after paracentesis
   - CVVH
 attempt to remove 50cc/hr now that blood pressures improved
   - Blood cultures
 NGTD
   - CT torso in the afternoon to evaluate for source of infection
   - Continue broad coverage with vancomycin/aztreonam/levofloxacin/flagyl
   - Continue octreotide and midodrine
   - Monitor
   # Renal failure/anion gap metabolic acidosis: Diagnosis likely
   hepatorenal syndrome type 1. Renal failure likely precipitated by large
   volume paracentesis at OSH and SBP.  Creatinine continues to rise and
   patient is anuric.  AG metabolic acidosis due to renal failure which is
   improved with bicarbonate tablets.  Dialysis catheter in place.
   - Renal following; appreciate recommendations
   - CVVH
 attempt to remove 50cc/hr now that blood pressures improved
   - On maximum doses of octreotide 200 mg tid and midodrine 15 mg
   - Liver/kidney transplant evaluation ongoing
 will obtain cardiology
   consult
   # Alcoholic cirrhosis: MELD score 32 on admission to MICU.  Liver
   disease most likely secondary to alcohol but evaluating for other
   possible etiologies and pursuing transplant evaluation.  No known
   varices.  Refractory ascites.  Currently not encephalopathic.
   Laboratories stable.  No response to vitamin K supplementation.
   - Continue protonix 40 mg IV
   - Continue pretransplant evaluation
 will obtain cardiology consult
   # Leukocytosis: White count remains elevated but is now trending down.
   Patient has been afebrile, although not reliable in setting of CVVH.
   PMN < 250 on paracentesis [**1-7**].  Urine culture growing yeast which is
   likely from antibiotic use.  No evidence of abscess, perforation or
   focal collection on CT.  C. difficile negative x 1.
   - Culture data no growth to date; monitor
   - Continue broad coverage with vancomycin/aztreonam/levofloxacin/flagyl
   - Continue fluconazole x 7 days
   # Ileus: Patient passing gas and stooling, however persistent
   residuals.  Ileus most likely secondary to infection/SBP.  No history
   of prior abdominal surgeries per patient.
   - NG tube in place
   - Attempt tube feeds when decreased residuals
   - Zofran PRN
   # Spontaneous bacterial peritonitis: Patient with SBP on OSH
   paracentesis.  [**Month (only) 51**] have had microperforation on initial paracentesis
   resulting in slow resolution of infection.  PMN < 250 on paracentesis
   [**1-7**].  Currently broadly covering.
   - Continue levofloxacin, flagyl, aztreonam x 14 days
   - Received albumin days 1 and 3
   # Dyspnea: Likely secondary to restriction from large volume ascites as
   well as bilateral pleural effusions.  Question consolidation on chest
   x-ray.
   - Antibiotics as above
   - CVVH to remove fluid when stable
   - Oxygen by nasal cannula as needed
   # Anemia: Normocytic.  Likely anemia of chronic disease and from
   chronic kidney disease.  Status post 2U pRBC to improve CvO2.
   - Monitor
   # Candiduria: Receiving Diflucan for planned 7-day course.
   # Pain: Abdominal and arthritic pain.  Avoiding NSAIDS given renal
   failure.
   - Morphine 1-2 mg PRN
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: Humalog insulin sliding scale
   Lines:
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   PICC Line - [**2124-1-6**] 03:30 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2124-01-08 07:34:00 Physician Attending Progress Note
Chief Complaint: SBP, HRS- anuric renal failure
   HPI:
   60 yo F w/ELSD [**2-27**] EtOH , transferred from OSH with SBP, Type I [**Hospital 4253**]
   transferred to the MICU with anuric renal failure for initiation of
   CVVH.
   24 Hour Events:
 PARACENTESIS - At [**2124-1-7**] 08:01 AM
   removed 2.5L.  Cx's sent.  f/u bladder pressure 28.  Pressors weaned
   post LVP.
   Afib w/RVR this am.
   Patient asking to be CMO.  Fully alert, d/w family, all in agreement.
   CVVH and pressors stopped.
   Allergies:
   Lisinopril
   Unknown;
   Penicillins
   Unknown;
   Zocor (Oral) (Simvastatin)
   Unknown;
   Tetracycline
   Unknown;
   Theophylline
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2124-1-7**] 01:00 PM
   Vancomycin - [**2124-1-7**] 08:12 PM
   Metronidazole - [**2124-1-8**] 12:15 AM
   Aztreonam - [**2124-1-8**] 04:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 0.6 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-7**] 08:00 AM
   Morphine Sulfate - [**2124-1-8**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-8**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 114 (69 - 114) bpm
   BP: 90/60(71) {78/45(59) - 96/62(77)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Bladder pressure: 28 (28 - 28) mmHg
   Total In:
                                                                  5,820 mL
                                                                    667 mL
   PO:
   TF:
   IVF:
                                                                  3,920 mL
                                                                    667 mL
   Blood products:
                                                                  1,100 mL
   Total out:
                                                                  7,508 mL
                                                                    979 mL
   Urine:
                                                                    141 mL
                                                                     25 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                  2,500 mL
   Balance:
                                                                 -1,688 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/38/77/22/-2
   Physical Examination
   Sleepy but arousable, following commands, answering questions
   appropriately
   CTAB anteriorly
   Nl s1s2, regular rhythm w/occasional ectopy
   Abd distended, tender, hypoactive BS
   Ext warm, 2+pitting edema
   Labs / Radiology
   9.0 g/dL
   138 K/uL
   117 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.1 mEq/L
   6 mg/dL
   97 mEq/L
   134 mEq/L
   26.6 %
   10.3 K/uL
        [image002.jpg]
                            [**2124-1-7**]  03:34 AM
                            [**2124-1-7**]  03:46 AM
                            [**2124-1-7**]  09:52 AM
                            [**2124-1-7**]  10:14 AM
                            [**2124-1-7**]  03:49 PM
                            [**2124-1-7**]  04:03 PM
                            [**2124-1-7**]  10:47 PM
                            [**2124-1-7**]  10:56 PM
                            [**2124-1-8**]  04:39 AM
                            [**2124-1-8**]  05:01 AM
   WBC
   14.4
   10.3
   Hct
   30.6
   26.6
   Plt
   189
   138
   Cr
   1.4
   1.1
   1.1
   TCO2
   23
   21
   23
   23
   23
   Glucose
   130
   129
   128
   129
   117
   Other labs: PT / PTT / INR:19.5/55.3/1.8, ALT / AST:[**4-11**], Alk Phos / T
   Bili:92/1.4, Differential-Neuts:73.0 %, Band:7.0 %, Lymph:13.0 %,
   Mono:5.0 %, Eos:1.0 %, Albumin:3.7 g/dL, LDH:115 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Plan as per resident note.
   Briefly, 60 y/o woman with ESLD, now Type I HRS in MICU for CVVH.
   Hypotension seems out of proportion to fluid removal and in any case
   CVVH has been running even o/n. Ddx included sepsis and  (less likely)
   abdominal compartment syndrome. S/P LVP, will give albumin to replace
   portion of what was taken off.  Neo/vasopressin for MAP < 55 (goal less
   because of likely baseline low SVR). Follow bladder pressure.  Abx
   regimen now vanc/levo/flagyl/aztreonam. Latest tap not c/w peritonitis.
   Cultures pending, chest/abdmn/pelvis CT today. Hope to resume fluid
   removal as soon as possible, but difficult  in the setting of high
   pressor requirement. Aim even today. Respiratory status is tenuous but
   stable and improved post LVP.
   Plan:
   Discontinue all nonessential meds and focus on comfort.  Family at
   bedside.
   Morphine gtt, prn Ativan, scopolamine
   d/c NGT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2124-1-4**] 09:10 PM
   Arterial Line - [**2124-1-5**] 12:15 PM
   20 Gauge - [**2124-1-5**] 04:25 PM
   PICC Line - [**2124-1-6**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, CMO
   Disposition :
   Total time spent: